US08202873B2
1-{4-[3′-(4-Fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-ylmethyl]-pyrazol-1-yl}-propan-2-ol hydrochloride, Isomer 1 and 2 respectively
Dissolve 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.160 g, 0.619 mmol) in DCE (5 mL). Add racemic 1-(2-hydroxy-propyl)-1H-pyrazole-4-carbaldehyde (0.175 g, 1.14 mmol) followed by sodium triacetoxyborohydride (0.262 g, 1.24 mmol) and stir at room temperature for 72 hr. Purify via SCX chromatography, followed by silica gel chromatography, eluting with 100:0 to 0:100 hexanes:ethyl acetate then 10:90 methanol:ethyl acetate, to give the racemic mixture of the free bases of the title compounds (223 mg, 91%).

reactant | 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.619 mmol, 0.160 g | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1 | C14H15FN4
reactant | racemic 1-(2-hydroxy-propyl)-1H-pyrazole-4-carbaldehyde | 1.14 mmol, 0.175 g | OC(CN1N=CC(=C1)C=O)C | C7H10N2O2
reactant | sodium triacetoxyborohydride | 1.24 mmol, 0.262 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCE | 5 mL | ClCCCl | C2H4Cl2
product | 1-{4-[3′-(4-Fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-ylmethyl]-pyrazol-1-yl}-propan-2-ol hydrochloride | Cl.FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1)CC(C)O | InChI=1S/C21H25FN6O.ClH/c1-16(29)13-28-15-17(12-25-28)14-26-8-10-27(11-9-26)21-20(23-6-7-24-21)18-2-4-19(22)5-3-18;/h2-7,12,15-16,29H,8-11,13-14H2,1H3;1H
